US07396958B2
N-{4-chloro-2-[(2-chlorophenyl)(hydroxy)methyl]phenyl}-3,4-dimethoxybenzenesulfonamide
16 g of N-[4-chloro-2-(2-chlorobenzoyl)phenyl]-3,4-dimethoxybenzenesulfonamide dissolved in 900 ml of ethanol are added portionwise 3.93 g of sodium borohydride, and the mixture is left for 18 hours at room temperature. The reaction medium is concentrated and the residue is taken up in ethyl acetate and washed with water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is solidified with diisopropyl ether; after filtering off and drying the precipitate, 14.66 g of the expected product are obtained.

reactant | N-[4-chloro-2-(2-chlorobenzoyl)phenyl]-3,4-dimethoxybenzenesulfonamide | 16 g | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC)C(C1=C(C=CC=C1)Cl)=O | C21H17Cl2NO5S
reactant | sodium borohydride | 3.93 g | [BH4-].[Na+]
solvent | ethanol | 900 ml | C(C)O | C2H6O
product | N-{4-chloro-2-[(2-chlorophenyl)(hydroxy)methyl]phenyl}-3,4-dimethoxybenzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=C(C=C1)OC)OC)C(O)C1=C(C=CC=C1)Cl | C21H19Cl2NO5S
